US07470664B2
Step 3: N-{[Isopropyl(pent-4-en-1-yl)amino]carbonyl}-3-methyl-L-valine
To a solution (0.1 M) of methyl N-{[isopropyl(pent-4-en-1-yl)amino]carbonyl}-3-methyl-L-valinate in a 1:1 mixture of water and dioxane, LiOH (4 eq) was added and the resulting mixture was stirred at room temperature for 6 h. The reaction mixture was then concentrated at reduced pressure and the crude residue was dissolved in EtOAc. The organic phase was washed with water. The aqueous phase was brought to pH=2 and re-extracted with EtOAc. After drying over Na2SO4 and evaporation of the volatiles, N-{[isopropyl(pent-4-en-1-yl)amino]carbonyl}-3-methyl-L-valine was recovered as a brownish solid (100%) and used without any further purification. LRMS (ESI) m/z 285 [(M+H)+; calcd for C15H29N2O3: 285.2].

reactant | methyl N-{[isopropyl(pent-4-en-1-yl)amino]carbonyl}-3-methyl-L-valinate | 0.1 M | C(C)(C)N(C(=O)N[C@@H](C(C)(C)C)C(=O)OC)CCCC=C | C16H30N2O3
reactant | water | O | H2O
reactant | LiOH | 4 eq | [Li+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-{[Isopropyl(pent-4-en-1-yl)amino]carbonyl}-3-methyl-L-valine | C(C)(C)N(C(=O)N[C@@H](C(C)(C)C)C(=O)O)CCCC=C | C15H28N2O3
